US07211572B2
To a solution of oxalyl chloride (0.245 ml) in methylene chloride (1 ml) was added dropwise a solution of dimethyl sulfoxide (0.269 ml) in methylene chloride (1 ml) under a nitrogen stream at −78° C. and the mixture was stirred for 10 min. A solution of 3-benzyloxy-5-bromo-1-(1-hydroxy-3-methoxymethoxy-2-propyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chloro-4-fluorobenzylamide (410 mg) in methylene chloride (16 ml) was added at the same temperature over 5 min. After stirring for further 10 min after the completion of the dropwise addition, triethylamine (1.37 ml) was added and the mixture was heated to room temperature. The mixture was stirred at room temperature for 1 hr and concentrated. Water was added and the mixture was extracted twice with ethyl acetate. The combined ethyl acetate layer was washed with saturated brine, dried and concentrated. The obtained crude product was dissolved in chloroform (8 ml), and N,N-diisopropylethylamine (0.734 ml) and methanesulfonyl chloride (0.101 ml) were successively added under ice-cooling. After stirring at room temperature for 2 hr, methanesulfonyl chloride (0.05 ml) was added and the mixture was further stirred for 1 hr. The reaction mixture was concentrated, and aqueous sodium hydrogen carbonate solution was added to the residue. The mixture was extracted twice with ethyl acetate. The combined ethyl acetate layer was washed with saturated brine, dried, concentrated and purified by silica gel column chromatography (ethyl acetate:hexane=1:2-ethyl acetate) to give 9-benzyloxy-7-bromo-2-(3-chloro-4-fluorobenzyl)-4-(methoxymethoxy)methyl-2H-pyrido[1,2-a]pyrazine-1,8-dione (163 mg).

reactant | oxalyl chloride | 0.245 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-benzyloxy-5-bromo-1-(1-hydroxy-3-methoxymethoxy-2-propyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chloro-4-fluorobenzylamide | 410 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)Br)C(CO)COCOC)C=CC1F | C25H25BrClFN2O6
reactant | N,N-diisopropylethylamine | 0.734 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.101 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.05 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.37 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 0.269 ml | CS(=O)C | C2H6OS
product | 9-benzyloxy-7-bromo-2-(3-chloro-4-fluorobenzyl)-4-(methoxymethoxy)methyl-2H-pyrido[1,2-a]pyrazine-1,8-dione | 163 mg | C(C1=CC=CC=C1)OC=1C(C(=CN2C1C(N(C=C2COCOC)CC2=CC(=C(C=C2)F)Cl)=O)Br)=O | C25H21BrClFN2O5
